US07189749B2
A solution of 4-fluoro salicylic acid chloride (12.3 g, 70.3 mmol) in dichloromethane (140 mL) was cooled to 0° C., and treated with N,N-diisopropylethylamine (31.0 mL, 175 mmol) and 3-nitrobenzylamine hydrochloride (16 g, 84.6 mmol). After stirring at room temperature for 24 h, the solution was concentrated in vacuo and diluted with ethyl acetate. The organic layer was washed successively with aq 2 N HCl and saturated aq NaCl, dried over MgSO4, filtered and concentrated. Purification by MPLC (10–100% ethyl acetate in heptane, 23 mL/min, 75 min) provided 4-fluoro-2-hydroxy-N-(3-nitro-benzyl)-benzamide as a yellow solid (13.7 g, 67%): 1H NMR (DMSO-d6 300 MHz) δ 12.75 (s, 1 H), 9.43 (t, J=6.0 Hz, 1 H), 8.11 (ddd, J, =8.3, J2=2.1 Hz, J3=1.2 Hz, 1 H), 8.18 (t, J=1.5 Hz, 1 H), 7.94 (dd, J1=8.9 Hz, J2=6.5 Hz, 1 H), 7.78 (td, J1=7.8 Hz, J2=1.4 Hz, 1 H), 7.63 (t, J=8.0 Hz, 1 H), 6.81–6.72 (m, 2 H), 4.61 (d, J=5.7 Hz, 2 H).

reactant | 4-fluoro salicylic acid chloride | 70.3 mmol, 12.3 g | FC=1C=C(C(C(=O)Cl)=CC1)O | C7H4ClFO2
reactant | N,N-diisopropylethylamine | 175 mmol, 31.0 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 3-nitrobenzylamine hydrochloride | 84.6 mmol, 16 g | Cl.[N+](=O)([O-])C=1C=C(CN)C=CC1
solvent | dichloromethane | 140 mL | ClCCl | CH2Cl2
product | 4-fluoro-2-hydroxy-N-(3-nitro-benzyl)-benzamide | 13.7 g, 67% | FC1=CC(=C(C(=O)NCC2=CC(=CC=C2)[N+](=O)[O-])C=C1)O | C14H11FN2O4
